US09260455B2
Step 1. Synthesis of N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(fluoromethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C19)
(Diethylamino)sulfur trifluoride (126 μL, 0.954 mmol) was added to a 0° C. solution of pentane (8 mL) and dichloromethane (5 mL). To this mixture was added N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (P2) (275 mg, 0.636 mmol) drop-wise over 10 minutes. The ice bath was removed, and the reaction mixture was allowed to warm to room temperature. After 6 hours, it was diluted with saturated aqueous sodium bicarbonate solution (20 mL) and extracted with dichloromethane (3×35 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo. Purification via silica gel chromatography (Gradient: 0% to 100% ethyl acetate in heptane) afforded the product as a white solid. Yield: 154 mg, 0.354 mmol, 56%. 1H NMR (400 MHz, CD3OD) δ 8.08-8.16 (m, 2H), 7.51-7.58 (m, 1H), 7.40-7.50 (m, 3H), 7.01-7.11 (m, 2H), 4.34-4.55 (m, 2H), 4.17 (br d, J=12 Hz, 1H), 3.92 (d, J=11.9 Hz, 1H), 3.9-4.02 (m, 1H), 3.18-3.28 (br m, 1H), 2.98-3.08 (br m, 1H), 1.73-1.81 (m, 1H), 1.55-1.67 (m, 1H), 1.26 (d, J=7.0 Hz, 3H).

reactant | (Diethylamino)sulfur trifluoride | 0.954 mmol, 126 μL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | pentane | 8 mL | CCCCC | C5H12
reactant | N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(hydroxymethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | 0.636 mmol, 275 mg | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)CO)C)NC(C2=CC=CC=C2)=O | C22H22F2N2O3S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-[(4R,4aR,6R,8aS)-8a-(2,4-difluorophenyl)-6-(fluoromethyl)-4-methyl-4,4a,5,6,8,8a-hexahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | FC1=C(C=CC(=C1)F)[C@@]12N=C(S[C@@H]([C@@H]1C[C@@H](OC2)CF)C)NC(C2=CC=CC=C2)=O | C22H21F3N2O2S
